US08541592B2
2-((1R,2S,4R,5S)-5-(tert-Butyldiphenylsilyloxy)bicyclo[2.2.1]heptan-2-yl)isoindoline-1,3-dione
A solution of diethyl azodicarboxylate (2.58 mL, 16.4 mmol) in anhydrous THF (10.0 mL) was added dropwise to a mixture of (1R,2R,4R,5S)-5-(tert-butyldiphenylsilyloxy)bicyclo[2.2.1 ]heptan-2-ol (5.00 g, 13.6 mmol), phthalimide (2.31 g, 15.7 mmol), and triphenyl phosphine (4.11 g, 15.7 mmol) in anhydrous THF (60 mL) at ambient temp. under nitrogen. After stirring for 32 h, the solvents were removed in vacuo. The residue was purified by flash column chromatography (0 to 20% of ethyl acetate in hexanes) to give the title compound as a white solid. MS m/z: 496.3 (M+H)+.

reactant | diethyl azodicarboxylate | 16.4 mmol, 2.58 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (1R,2R,4R,5S)-5-(tert-butyldiphenylsilyloxy)bicyclo[2.2.1 ]heptan-2-ol | 13.6 mmol, 5.00 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1[C@H]2C[C@H]([C@@H](C1)C2)O | C23H30O2Si
reactant | phthalimide | 15.7 mmol, 2.31 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenyl phosphine | 15.7 mmol, 4.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-((1R,2S,4R,5S)-5-(tert-Butyldiphenylsilyloxy)bicyclo[2.2.1]heptan-2-yl)isoindoline-1,3-dione | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)N2C(C1=CC=CC=C1C2=O)=O | C31H33NO3Si
